US08207172B2
Step 1. Preparation of 2-{6[2-(4-nitro-phenyl)-ethoxy]-4,5-dihydro-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluoren-3-yl}-ethanol
This compound was prepared in a similar fashion as described in Example 80 starting from (8E)-8-[(dimethylamino)methylene]-4-[2-(4-nitrophenyl)ethoxy]-5,8-dihydro[1]benzothieno[2,3-d]pyrimidin-7(6H)-one (7.05 g, 16.61 mmol) and 2-tert-butyloxycarbonyl-2-hydroxyethylhydrazine (4.39 g, 24.91 mmol). The desired product was obtained as a yellow solid (3.82 g, 53%). 1H-NMR (DMSO-d6) δ 8.50 (s, 1H), 8.18 (m, 2H), 7.64 (m, 3H), 4.88 (m, 1H), 4.77 (t, 2H, J=6.1 Hz), 4.10 (t, 2H, J=5.5 Hz), 3.68 (m, 2H), 3.28 (m, 2H), 3.05 (m, 2H), 2.96 (m, 2H); LCMS RT=2.92 min; [M+H]+=438.1

reactant | (8E)-8-[(dimethylamino)methylene]-4-[2-(4-nitrophenyl)ethoxy]-5,8-dihydro[1]benzothieno[2,3-d]pyrimidin-7(6H)-one | 16.61 mmol, 7.05 g | CN(C)\C=C\1/C(CCC2=C1SC=1N=CN=C(C12)OCCC1=CC=C(C=C1)[N+](=O)[O-])=O | C21H20N4O4S
reactant | 2-tert-butyloxycarbonyl-2-hydroxyethylhydrazine | 24.91 mmol, 4.39 g | C(C)(C)(C)OC(=O)NNCCO | C7H16N2O3
product | 2-{6[2-(4-nitro-phenyl)-ethoxy]-4,5-dihydro-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluoren-3-yl}-ethanol | [N+](=O)([O-])C1=CC=C(C=C1)CCOC1=C2C=3CCC4=C(C3SC2=NC=N1)C=NN4CCO | C21H19N5O4S
